US08669234B2
To a slurry of 2-{5-[4-(6-{2-[1-(2-Methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-naphthalen-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester (0.1 g, 0.14 mmol) in MeOH (0.15 mL) was added HCl in dioxanes (4 M, 0.7 mL). The resulting solution was stirred at room temperature for 1 hour and diluted with Et2O. The resulting precipitate was filtered and dried to provide {2-Methyl-1-[2-(5-{6-[4-(2-pyrrolidin-2-yl-3H-imidazol-4-yl)-phenyl]-naphthalen-2-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carbonyl]-propyl}-carbamic acid methyl ester trihydrochloric acid salt (0.09 g, 87%) as a white powder. LCMS-ESI+: calc'd for C37H41N7O3: 631.3 (M+). Found: 632.7 (M+H+).

reactant | 2-{5-[4-(6-{2-[1-(2-Methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-naphthalen-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.14 mmol, 0.1 g | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C1=CC2=CC=C(C=C2C=C1)C=1NC(=NC1)C1N(CCC1)C(C(C(C)C)NC(=O)OC)=O | C42H49N7O5
reactant | HCl | Cl | ClH
solvent | MeOH | 0.15 mL | CO | CH4O
solvent | Et2O | CCOCC | C4H10O
product | {2-Methyl-1-[2-(5-{6-[4-(2-pyrrolidin-2-yl-3H-imidazol-4-yl)-phenyl]-naphthalen-2-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carbonyl]-propyl}-carbamic acid methyl ester trihydrochloric acid salt | 0.09 g, 87% | Cl.Cl.Cl.COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC2=CC=C(C=C2C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1NCCC1)=O | InChI=1S/C37H41N7O3.3ClH/c1-22(2)33(43-37(46)47-3)36(45)44-17-5-7-32(44)35-40-21-31(42-35)28-15-14-26-18-25(12-13-27(26)19-28)23-8-10-24(11-9-23)30-20-39-34(41-30)29-6-4-16-38-29;;;/h8-15,18-22,29,32-33,38H,4-7,16-17H2,1-3H3,(H,39,41)(H,40,42)(H,43,46);3*1H
